US07465815B2
3-(4-Isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzothiophene
Using 3-(4-isopropylphenyl)-4,6-dimethyl-1-benzothiophene obtained in Reference Example 198, the title compound was synthesized in the same manner as in Reference Example 199. Yield 85%. Melting point: 74-75° C. (methanol).

reactant | 3-(4-isopropylphenyl)-4,6-dimethyl-1-benzothiophene | C(C)(C)C1=CC=C(C=C1)C1=CSC2=C1C(=CC(=C2)C)C | C19H20S
solvent | methanol | CO | CH4O
product | 3-(4-Isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzothiophene | Yield 85% | C(C)(C)C1=CC=C(C=C1)C1CSC2=C1C(=CC(=C2)C)C | C19H22S
